US07153875B2
A mixture of toluene (10 mL), piperidine (10 μL), acetic acid (10 μL), 6-[3-(1-adamantyl)-4,5-methylenedioxyphenyl]-2-naphthaldehyde (0.400 g, 0.974 mmol) and 2,4-thiazolidinedione (0.114 g, 0.974 mmol) was heated at reflux overnight under an argon atmosphere. The reaction mixture was cooled to room temperature, and the resulting crystalline compound was filtered, washed with toluene and ethanol. The yellow solid was dried under high vacuum to afford 0.344 g (69%) of 6-[3-(1-adamantyl)-4,5-methylenedioxyphenyl]-naphthalen-2-yl-methylene-2,4-thiazolidinedione, mp 304–306° (dec). 1H NMR (500 MHz; DMSO-d6): 1.76 (s, 6H), 2.07 (s, 9H), 6.06 (s, 2H), 7.16 (d, J=1.6 Hz, 1H), 7.29 (s, 1H), 7.68 (dd, J=1.0 Hz, J=9.0 Hz, 1H), 7.88 (d, J=9.0 Hz, 1H), 7.93 (s, 1H), 8.06 (d, J=9.0 Hz, 1H), 8.08 (d, J=8.8 Hz, 1H), 8.17 (s, 1H), 8.19 (s, 1H), 12.5–12.7 (brs, 1H).

reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | piperidine | 10 μL | N1CCCCC1 | C5H11N
reactant | 6-[3-(1-adamantyl)-4,5-methylenedioxyphenyl]-2-naphthaldehyde | 0.974 mmol, 0.400 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=C3C2OCO3)C=3C=C2C=CC(=CC2=CC3)C=O | C28H26O3
reactant | 2,4-thiazolidinedione | 0.974 mmol, 0.114 g | S1C(NC(C1)=O)=O | C3H3NO2S
solvent | acetic acid | 10 μL | C(C)(=O)O | C2H4O2
product | 6-[3-(1-adamantyl)-4,5-methylenedioxyphenyl]-naphthalen-2-yl-methylene-2,4-thiazolidinedione | 0.344 g, 69% | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=C3C2OCO3)C=3C=C2C=CC(=CC2=CC3)N3C(SC(C3=O)=C)=O | C31H27NO4S
